US08119669B2
4-{4-[3-(2-Dimethylamino-ethyl)-2,4-dioxo-thiazolidin-5-ylidenemethyl]-2-fluoro-phenoxy}-3-trifluoromethyl-benzonitrile
The title compound was prepared using 4-[4-(2,4-Dioxo-thiazolidin-5-ylidenemethyl)-2-fluoro-phenoxy]-3-trifluoromethyl-benzonitrile and (2-Chloro-ethyl)-dimethyl-amine as described in Example 1. 1H NMR (400 Hz, CDCl3) δ7.95 (s, 1H), 7.76 (s, 1H), 7.69 (dd, 1H), 7.27 (m, 3H), 6.84 (d, 1H), 3.91 (t, 2H), 2.76 (bt, 2H), 2.40 (s, 6H); LC/MS (m/z) [M+1]+ 480.1 (calculated for C22H18F4N3O3S, 480.45).

reactant | 4-[4-(2,4-Dioxo-thiazolidin-5-ylidenemethyl)-2-fluoro-phenoxy]-3-trifluoromethyl-benzonitrile | O=C1SC(C(N1)=O)=CC1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)F | C18H8F4N2O3S
reactant | (2-Chloro-ethyl)-dimethyl-amine | ClCCN(C)C | C4H10ClN
product | 4-{4-[3-(2-Dimethylamino-ethyl)-2,4-dioxo-thiazolidin-5-ylidenemethyl]-2-fluoro-phenoxy}-3-trifluoromethyl-benzonitrile | CN(CCN1C(SC(C1=O)=CC1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)F)=O)C | C22H17F4N3O3S
